US07763639B2
3-(1-PROPYLPIPERIDIN-4-YL)-2-(TRIFLUORO-METHYL)BENZONITRILE
Preparation according to Example 7: 4-[3-fluoro-2-(trifluoromethyl)phenyl]-1-propylpiperidine (0.81 g, 2.8 mmol), N,N-dimethylformamide (30 ml), sodium cyanide (0.5 g, 10 mmol) and 18-crown-6-ether (30 mg). Yield: 0.53 g (64%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 266-269° C. MS m/z (relative intensity, 70 eV) 296 (M+, 3), 268 (16), 267 (bp), 204 (3), 184 (3).

reactant | 4-[3-fluoro-2-(trifluoromethyl)phenyl]-1-propylpiperidine | 2.8 mmol, 0.81 g | FC=1C(=C(C=CC1)C1CCN(CC1)CCC)C(F)(F)F | C15H19F4N
reactant | sodium cyanide | 10 mmol, 0.5 g | [C-]#N.[Na+]
reactant | 18-crown-6-ether | 30 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(1-PROPYLPIPERIDIN-4-YL)-2-(TRIFLUORO-METHYL)BENZONITRILE | C(CC)N1CCC(CC1)C=1C(=C(C#N)C=CC1)C(F)(F)F | C16H19F3N2
